US07402672B2
1-Methyl-3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-34 (Scheme I, step g)
Add methyl iodide (20 mg, 0.14 mmol) at r.t. to a mixture of 3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide (Ia-1, 27 mg, 0.1 mmol), Cs2CO3 (43 mg, 0.13 mmol) in pyridine (0.5 ml). Heat the reaction at 80° C. in a sealed vessel for 15 minutes. Cool the mixture cooled and extract into ethyl acetate from water. Separate the organic solution and evaporate. Purify the residue (33 mg) by flash chromatography (silica gel, 3 gm, elute with MeOH 0-4% in dichloromethane) to provide the title compound (11 mg) as a white solid, 1H NMR (CDCl3) and LC-MS (m/e=283) are consistent for the title compound structure.

reactant | methyl iodide | 0.14 mmol, 20 mg | CI | CH3I
reactant | 3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | 0.1 mmol, 27 mg | C1(=CC=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H11N3OS
reactant | Cs2CO3 | 0.13 mmol, 43 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 1-Methyl-3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | 11 mg | CN1C(=C(C2=NC=CC=C21)SC2=CC=CC=C2)C(=O)N | C15H13N3OS
